US04212865
Using the method of Example 10, 5-amino-2-nitro-3-phenylbenzofuran is reacted with α-chloroacetyl chloride in acetic acid to provide 5-(α-chloroacetamido)-2-nitro-3-phenylbenzofuran.

reactant | 5-amino-2-nitro-3-phenylbenzofuran | NC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C14H10N2O3
reactant | α-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(α-chloroacetamido)-2-nitro-3-phenylbenzofuran | ClCC(=O)NC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H11ClN2O4
